US06150379
A mixture comprising ethyl 6-(5-amidino-1H-benzimidazol-2-yl)pyridine-3-carboxylate (1.7 g, 5.7 mmol) and 3N hydrochloric acid (60 mL) was heated at reflux for 24 hours. The mixture was cooled, concentrated to one quarter volume and poured into stirring acetonitrile (200 mL) to give a precipitate. The precipitate was filtered and dried under vacuum to provide 6-(5-amidino-1H-benzimidazol-2-yl)pyridine-3-carboxylic acid (1.4 g, 5.0 mmol). 1H-NMR (300 Mhz, DMSO-d6): 7.7 (m, 2H), 8.2 (s, 1H), 8.5 (m, 2H), 9.2 (s, 1H), 9.3 (s, 2H) 9.5 (s, 2H); MS (ESI), Calculated for C14H11N5O2 : 281.3, Found (MH+): 281.9.

reactant | ethyl 6-(5-amidino-1H-benzimidazol-2-yl)pyridine-3-carboxylate | 5.7 mmol, 1.7 g | C(N)(=N)C1=CC2=C(NC(=N2)C2=CC=C(C=N2)C(=O)OCC)C=C1 | C16H15N5O2
solvent | hydrochloric acid | 3N, 60 mL | Cl | ClH
product | 6-(5-amidino-1H-benzimidazol-2-yl)pyridine-3-carboxylic acid | 5.0 mmol, 1.4 g | C(N)(=N)C1=CC2=C(NC(=N2)C2=CC=C(C=N2)C(=O)O)C=C1 | C14H11N5O2
